US05736548
To a suspension of K2CO3 (82.88 g, 0.6 mol) in CH3CN (300 ml) was added 3,5-dihydroxybenzoic acid (4.62 g, 0.03 mol), followed 10 minutes later by N-(2-chloroethyl)morpholine hydrochloride (18.42 g, 0.099 mol). The reaction mixture was refluxed overnight, cooled, filtered and the filtrate was concentrated in vacuo. The oily residue was purified by column chromatography on silica gel eluting with acetone, followed by Kugelrohr distillation at>195° C. and 0.2 mm Hg to afford 7.45 g of 4-morpholinylethyl 3,5-di-[2-(4-morpholinyl)ethoxy]benzoate.

reactant | K2CO3 | 0.6 mol, 82.88 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3,5-dihydroxybenzoic acid | 0.03 mol, 4.62 g | OC=1C=C(C(=O)O)C=C(C1)O | C7H6O4
reactant | N-(2-chloroethyl)morpholine hydrochloride | 0.099 mol, 18.42 g | Cl.ClCCN1CCOCC1
solvent | CH3CN | 300 ml | CC#N | C2H3N
product | 4-morpholinylethyl 3,5-di-[2-(4-morpholinyl)ethoxy]benzoate | 7.45 g | N1(CCOCC1)CCOC=1C=C(C(=O)OCCN2CCOCC2)C=C(C1)OCCN1CCOCC1 | C25H39N3O7
